US20010049441A1
3-(Octahydro-7-indolizinyl)-1-(2-naphthalenesulfonyl)-7-azaindole (15.3 mg, 85.5%);
from 3-(octahydro-7-indolizinyl)-1-H-5-azaindole (less polar isomer) (10 mg, 0.0415 mmol), 2-naphthalenesulfonyl chloride (17.2 mg, 0.0828 mmol) and 1M NaN(TMS)2 (100 μL, 0.10 mmol) in THF (0.5 mL) at RT.

reactant | 3-(octahydro-7-indolizinyl)-1-H-5-azaindole | C1CCN2CCC(CC12)C1=CNC2=CC=NC=C12 | C15H19N3
reactant | 2-naphthalenesulfonyl chloride | 0.0828 mmol, 17.2 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | NaN(TMS)2 | 0.10 mmol, 1M, 100 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(Octahydro-7-indolizinyl)-1-(2-naphthalenesulfonyl)-7-azaindole | C1CCN2CCC(CC12)C1=CN(C2=NC=CC=C12)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C25H25N3O2S
